US05179125
Preparation of benzyl 1-[(2-acetylthiomethyl-3-phenylpropionyl)amino]cyclohexanecarboxylate:
Benzyl 1-aminocyclohexanecarboxylate·p-toluene-sulfonate and 2-acetylthiomethyl-3-phenylpropionic acid are reacted in the same manner as described in Example 68-(a)-[1] to give the title compound.

reactant | Benzyl 1-aminocyclohexanecarboxylate·p-toluene-sulfonate | NC1(CCCCC1)C(=O)OCC1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | 2-acetylthiomethyl-3-phenylpropionic acid | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
product | benzyl 1-[(2-acetylthiomethyl-3-phenylpropionyl)amino]cyclohexanecarboxylate | C(C)(=O)SCC(C(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C26H31NO4S
